US07560571B2
To 0.15 g (0.328 mmol) of 4-amino-3-{4-[3-(2-fluoro-5-trifluoromethyl-phenyl)ureido]phenyl}-1H-pyrrole-2-carboxamide hydrochloride dissolved in 4.5 cm3 of tetrahydrofuran are added, at a temperature in the region of 20° C. under an argon atmosphere, 0.038 cm3 of benzoyl chloride and 0.091 cm3 of triethylamine. After stirring for 4 hours at a temperature in the region of 20° C., the reaction mixture is diluted with 15 cm3 of dichloromethane and then washed with twice 10 cm3 of saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure (2.7 kPa) to give a solid, which is recrystallized while hot in 5 cm3 of methanol. The recrystallized solid is filtered through a No 3 sinter funnel, washed with twice 2 cm3 of methanol and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 35° C. for 5 hours to give 0.075 g of 4-benzoylamino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide in the form of a white solid melting at 239.7° C.; ES+: m/z=526: [M+H]+.

reactant | 4-amino-3-{4-[3-(2-fluoro-5-trifluoromethyl-phenyl)ureido]phenyl}-1H-pyrrole-2-carboxamide hydrochloride | 0.328 mmol, 0.15 g | Cl.NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F
reactant | benzoyl chloride | 0.038 cm3 | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.091 cm3 | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4.5 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 4-benzoylamino-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-2-carboxamide | 0.075 g | C(C1=CC=CC=C1)(=O)NC=1C(=C(NC1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C26H19F4N5O3
